US20010000345A1
To a cold (0° C.) solution of 874 mg of 1-(tert-butoxycarbonyl)-5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4-methylbenzimidazole in 2 mL of methylene chloride is added 2 mL of trifluoroacetic acid. The resulting solution is stirred at room temperature for 30 minutes, then rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 20% methanol/chloroform followed by recrystallization from hexanes/methylene chloride to provide 573 mg of 5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4-methylbenzimidazole as a white solid.

reactant | 1-(tert-butoxycarbonyl)-5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4-methylbenzimidazole | 874 mg | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NC(=NC(=O)OCC2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C30H31N5O6
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-[N2,N3-bis(benzyloxycarbonyl)guanidino]-4-methylbenzimidazole | 573 mg | C(C1=CC=CC=C1)OC(=O)N=C(NC1=C(C2=C(N=CN2)C=C1)C)NC(=O)OCC1=CC=CC=C1 | C25H23N5O4
